US04098888
To a solution of 1.10 g. of α-hydroxy-[2-(β,β,β-trichloroethoxycarbonyl)aminothiazol-4-yl)acetonitrile in 1 ml. of pyridine is added 2.5 ml. of acetic anhydride under ice-cooling and the mixture is stirred for 1 hour. To the mixture is added ether and water and the organic layer is washed with aq. NaHCO3 and further water in this order. Evaporation of ether gives α-acetoxy-[2-(β,β,β-trichloroethoxycarbonyl)aminothiazol-4-yl]acetonitrile. 1.3 g. NMR(ppm, 100 MHz, CDCl3): 2.20(3H,s,COCH3), 5.00(2H,s, Cl3CCH2 --), 6.60(1H,s, >CHCN), 7.30(1H,s,5-H).

reactant | α-hydroxy-[2-(β,β,β-trichloroethoxycarbonyl)aminothiazol-4-yl)acetonitrile | OC(C#N)C=1N=C(SC1)NC(=O)OCC(Cl)(Cl)Cl | C8H6Cl3N3O3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | α-acetoxy-[2-(β,β,β-trichloroethoxycarbonyl)aminothiazol-4-yl]acetonitrile | C(C)(=O)OC(C#N)C=1N=C(SC1)NC(=O)OCC(Cl)(Cl)Cl | C10H8Cl3N3O4S
